US06060488
6-Methoxy-2-(4-Methoxyphenyl)-3-(4-[2-Pyrrolidin-1-ylcyclohexoxy]benzoyl)benzo[b]thiophene
6-Methoxy-2-(4-methoxyphenyl)-3-(4-hydroxybenzoyl)benzo[b]thiophene (1.27 g, 3.25 mmol), trans-2-pyrrolidinylcyclohexanol (1.10 g, 6.50 mmol), triphenylphosphine (1.70 g, 6.50 mmol), and DEAD (6.50 mmol) were converted to product by the procedure of Example 11 to give 615 mg of the title compound. Yield: 35%. MS(FD) 541(M+). IR (CHCl3) ν max 3009, 2940, 1645, 1597, 1476, 1254, 1166.

reactant | 6-Methoxy-2-(4-methoxyphenyl)-3-(4-hydroxybenzoyl)benzo[b]thiophene | 3.25 mmol, 1.27 g | COC=1C=CC2=C(SC(=C2C(C2=CC=C(C=C2)O)=O)C2=CC=C(C=C2)OC)C1 | C23H18O4S
reactant | trans-2-pyrrolidinylcyclohexanol | 6.50 mmol, 1.10 g | N1(CCCC1)[C@H]1[C@@H](CCCC1)O | C10H19NO
reactant | triphenylphosphine | 6.50 mmol, 1.70 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DEAD | 6.50 mmol | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
product | 6-Methoxy-2-(4-Methoxyphenyl)-3-(4-[2-Pyrrolidin-1-ylcyclohexoxy]benzoyl)benzo[b]thiophene | 615 mg, Yield: 35% | COC=1C=CC2=C(SC(=C2C(C2=CC=C(C=C2)OC2C(CCCC2)N2CCCC2)=O)C2=CC=C(C=C2)OC)C1 | C33H35NO4S
